US04000275
6-(6-Carboethoxyhexanoyl)benzimidazo[2,1-b]quinazolin-12(6H)one is prepared with benzimidazo[2,1-b]quinazolin-12(6H)one and ethyl 6-(chloroformyl)hexanoate.

reactant | benzimidazo[2,1-b]quinazolin-12(6H)one | C1=C2C(N3C(=NC2=CC=C1)NC1=C3C=CC=C1)=O | C14H9N3O
reactant | ethyl 6-(chloroformyl)hexanoate | ClC(=O)CCCCCC(=O)OCC | C9H15ClO3
product | 6-(6-Carboethoxyhexanoyl)benzimidazo[2,1-b]quinazolin-12(6H)one | C(=O)(OCC)CCCCCC(=O)N1C2=C(C=CC=C2)N2C1=NC1=CC=CC=C1C2=O | C23H23N3O4
